US07973162B2
Step 1: tert-butyl 2-oxo-3,3a,4,9b-tetrahydro-2H-spiro[naphtho[1,2-b]furan-5,4′-piperidine]-1′-carboxylate
Zn(BH4)2 was prepared following a known procedure (Beatrix Merla, Hans-Joachim Grumbach, Nikolaus Risch, Synthesis, 1998 1609-1614). At 0° C., zinc chloride (anhydrous, 5 g, 36.6 mmol) was added to a solution of sodium borohydride (2.72 g, 72 mmol) in diethyl ether (100 ml). The reaction mixture was stirred at 0° C. for 2 h. After filtration under N2, the borohydride solution (9 ml) was added to a suspension of the tert-butyl 3-(2-methoxy-2-oxoethyl)-4-oxo-3,4-dihydro-2H-spiro[naphthalene-1,4′-piperidine]-1′-carboxylate (589 mg, 1.52 mmol). After 1 h, additional borohydride solution (9 ml) was added and the mixture stirred for 15 h. The mixture was quenched with 1N HCl, neutralized with saturated sodium bicarbonate, extracted with EtOAc. The extract was concentrated and the residue purified by flash chromatography to give the title compound (140 mg).

reactant | sodium borohydride | 72 mmol, 2.72 g | [BH4-].[Na+]
reactant | borohydride | 9 ml | [BH4-]
reactant | tert-butyl 3-(2-methoxy-2-oxoethyl)-4-oxo-3,4-dihydro-2H-spiro[naphthalene-1,4′-piperidine]-1′-carboxylate | 1.52 mmol, 589 mg | COC(CC1CC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2C1=O)=O | C22H29NO5
reactant | borohydride | 9 ml | [BH4-]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
catalyst | zinc chloride | 36.6 mmol, 5 g | [Cl-].[Zn+2].[Cl-]
product | tert-butyl 2-oxo-3,3a,4,9b-tetrahydro-2H-spiro[naphtho[1,2-b]furan-5,4′-piperidine]-1′-carboxylate | 140 mg | O=C1CC2C(O1)C1=CC=CC=C1C1(CCN(CC1)C(=O)OC(C)(C)C)C2 | C21H27NO4
